simulator lang=spectre
global 0

ahdl_include "./dut/therm8_to_bin4_count.va"

Vth0 (th0 0) vsource type=pwl wave=[0 0.9 3.4n 0.9]
Vth1 (th1 0) vsource type=pwl wave=[0 0 1.6n 0 1.65n 0.9 3.4n 0.9]
Vth2 (th2 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0.9 3.4n 0.9]
Vth3 (th3 0) vsource type=pwl wave=[0 0 1.6n 0 1.65n 0.9 3.4n 0.9]
Vth4 (th4 0) vsource type=pwl wave=[0 0 1.6n 0 1.65n 0.9 3.4n 0.9]
Vth5 (th5 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0.9 3.4n 0.9]
Vth6 (th6 0) vsource type=pwl wave=[0 0 1.6n 0 1.65n 0.9 3.4n 0.9]
Vth7 (th7 0) vsource type=pwl wave=[0 0 0.8n 0 0.85n 0.9 3.4n 0.9]
XDUT (th0 th1 th2 th3 th4 th5 th6 th7 b0 b1 b2 b3) therm8_to_bin4_count

simulatorOptions options evas_profile=balanced

tran tran stop=3.2n maxstep=5p
save th0 th1 th2 th3 th4 th5 th6 th7 b0 b1 b2 b3
